US06552022B1
3-(4-{4-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-phenyl}-piperazin-1-ylmethyl)-benzoic Acid
To a solution of 4′-trifluoromethyl-biphenyl-2-carboxylic acid [4-[4-(3-carbomethoxy-benzyl)-piperazin-1-yl]-phenyl]-amide (1.6 g) in EtOH (100 mL) was added 1N sodium hydroxide (5.6 mL) and the mixture was stirred under reflux for 16 hours. The solution was cooled at room temperature and acidified with 1N hydrochloric acid (5.6 mL). The white precipitate obtained was filtered and recristallized from EtOH to give the title compound (1.4 g) as white crystals. m.p.: 225-227° C.

reactant | 4′-trifluoromethyl-biphenyl-2-carboxylic acid [4-[4-(3-carbomethoxy-benzyl)-piperazin-1-yl]-phenyl]-amide | 1.6 g | C(=O)(OC)C=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=C(C=C2)C(F)(F)F)C=CC1 | C33H30F3N3O3
reactant | sodium hydroxide | 1N, 5.6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5.6 mL | Cl | ClH
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3-(4-{4-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-phenyl}-piperazin-1-ylmethyl)-benzoic Acid | 1.4 g | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C=C1)N1CCN(CC1)CC=1C=C(C(=O)O)C=CC1)(F)F | C32H28F3N3O3
